US09334279B2
To a round-bottom flask equipped with a stir bar was added (2S,3S)-methyl 2-((tert-butoxycarbonyl)amino)-3-(pent-4-en-1-yloxy)pentanoate (1.06 g, 3.36 mmol), THF (10 mL) and MeOH (10 mL). To the solution was added aq. LiOH (1.0 M, 5.04 mL). The mixture was stirred for 16 h at room temperature. The mixture was concentrated in vacuo, and the resulting aqueous solution was acidified with aq HCl (1.0 M) and then transferred to a separatory funnel. The solution was twice extracted with EtOAc and the combined organics were dried over MgSO4; filtered; then concentrated in vacuo to afford (2S,3S)-2-((tert-butoxycarbonyl)amino)-3-(pent-4-en-1-yloxy)pentanoic acid as a colorless solid foam (1.00 g, 99% yield).

reactant | (2S,3S)-methyl 2-((tert-butoxycarbonyl)amino)-3-(pent-4-en-1-yloxy)pentanoate | 3.36 mmol, 1.06 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)[C@H](CC)OCCCC=C | C16H29NO5
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | LiOH | 1.0 M, 5.04 mL | [Li+].[OH-]
solvent | MeOH | 10 mL | CO | CH4O
product | (2S,3S)-2-((tert-butoxycarbonyl)amino)-3-(pent-4-en-1-yloxy)pentanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)[C@H](CC)OCCCC=C | C15H27NO5
